US08648066B2
2-amino-5-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]-N-[(3R)-1-methylpyrrolidin-3-yl]pyridine-3-sulfonamide.
Prepared according to the method of example 5 by using 2-amino-5-bromo-N-[(3R)-1-methylpyrrolidin-3-yl]pyridine-3-sulfonamide (reagent preparation 25) and [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid (reagent preparation 23) in step 1. 1H NMR (400 MHz, Methanol-d4): 8.45 (s, 1H), 8.34 (s, 1H), 8.17 (s, 1H), 7.50 (s, 1H), 7.42 (d, 1H), 7.04 (d, 1H), 4.71 (s, 2H), 4.33 (m, 2H), 3.96 (m, 2H), 3.84 (m, 1H), 2.94 (m, 1H), 2.83 to 2.69 (m, 4H), 2.61 (m, 1H), 2.47 (s, 2H), 2.45 (s, 3H), 1.74 to 1.65 (m, 3H), 0.91 (s, 6H); MS (EI) for C29H37N7O3S: 564 (MH+).

reactant | 2-amino-5-bromo-N-[(3R)-1-methylpyrrolidin-3-yl]pyridine-3-sulfonamide | NC1=NC=C(C=C1S(=O)(=O)N[C@H]1CN(CC1)C)Br | C10H15BrN4O2S
reactant | [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)B(O)O)C | C19H24BN3O3
product | 2-amino-5-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]-N-[(3R)-1-methylpyrrolidin-3-yl]pyridine-3-sulfonamide | NC1=NC=C(C=C1S(=O)(=O)N[C@H]1CN(CC1)C)C=1C=CC2=C(CN(CCO2)C2=NC=NC=3CCC(CC23)(C)C)C1 | C29H37N7O3S
